US05212171
Preparation of 2-(2,4-dichlorophenyl)5-nitro-1,3-benzoxathiole
2-Mercapto-4-nitrophenol (2.0 g) and 2,4-dichlorobenzaldehyde (2.0 g) were heated under reflux for 6 hours in toluene (70 ml) containing a catalytic amount (0.2 g) of p-toluenesulphonic acid monohydrate. Water formed in the reaction was separated by means of a Dean-Stark apparatus. The resulting reaction mixture was evaporated under reduced pressure, and the residue extracted with cyclohexane. The cyclohexane solution was then evaporated and the residue chromatographed on silica gel using methylene chloride/5% (v/v) methanol as eluant. The material obtained at this stage was contaminated with unreacted aldehyde. This was removed by stirring a methylene chloride solution of the crude product with 30% aqueous sodium bisulphite for 2 hours and then washing the solution successively with saturated sodium bicarbonate solution and water. After drying over anhydrous sodium sulphate, the methylene chloride was removed under reduced pressure. Crystallisation of the residue afforded the pure product as pale yellow crystals (0.7 g, 21%), mp 106°-108° C.

reactant | 2-Mercapto-4-nitrophenol | 2.0 g | SC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H5NO3S
reactant | 2,4-dichlorobenzaldehyde | 2.0 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | p-toluenesulphonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,4-dichlorophenyl)5-nitro-1,3-benzoxathiole | 0.7 g, 21% | ClC1=C(C=CC(=C1)Cl)C1OC2=C(S1)C=C(C=C2)[N+](=O)[O-] | C13H7Cl2NO3S
